US06313312B1
N-[3-(3-Allyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]methanesulfonamide
To 3-(3-allyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)aniline (Preparation 52, 8.5 g, 37.2 mmol) dissolved in pyridine (70 ml) at 0° C. was added methanesulphonyl chloride (4.32 ml, 55.8 mmol) dropwise over 20 min. The reaction mixture was allowed to stir for 16 h and was then quenched with ice (5 g). The reaction mixture was concentrated in vacuo and the residue was dissolved in dichloromethane and washed with saturated aqueous sodium hydrogen carbonate solution, followed by water. The organic extracts were concentrated in vacuo and then purified by flash chromatography on silica gel, eluting with ethyl acetate:dichloromethane:2N ammonia in methanol (30:69:1). The product was obtained as a viscous brown oil (7.7 g, 68%).

reactant | 3-(3-allyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)aniline | 37.2 mmol, 8.5 g | C(C=C)N1CC2C(C2C1)(C)C=1C=C(N)C=CC1 | C15H20N2
reactant | methanesulphonyl chloride | 55.8 mmol, 4.32 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | N-[3-(3-Allyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]methanesulfonamide | 7.7 g, 68% | C(C=C)N1CC2C(C2C1)(C)C=1C=C(C=CC1)NS(=O)(=O)C | C16H22N2O2S
